US04971993
N-t-butyloxycarbonyl-L-phenylalanyl-L-proline benzylester (29.87 g, 66 mmole) was dissolved in 4.5N hydrochloric acid in dioxane solution (220 ml), and stirred for 1.5 hours at room temperature. The solvent was distilled off under reduced pressure, and gelatinous solid material thus obtained was dissolved in water (250 ml). The solution was washed with diethyl ether and the water layer was freeze-dried to obtain L-phenylalanyl-L-proline benzylester hydrochloride(yield: 26.53 g, 100%).

reactant | N-t-butyloxycarbonyl-L-phenylalanyl-L-proline benzylester | 66 mmole, 29.87 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C26H32N2O5
reactant | hydrochloric acid | 4.5N | Cl | ClH
solvent | dioxane | 220 ml | O1CCOCC1 | C4H8O2
solvent | water | 250 ml | O | H2O
product | L-phenylalanyl-L-proline benzylester hydrochloride | yield: 26.53 g, 100% | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](N)CC1=CC=CC=C1)=O)=O | InChI=1S/C21H24N2O3.ClH/c22-18(14-16-8-3-1-4-9-16)20(24)23-13-7-12-19(23)21(25)26-15-17-10-5-2-6-11-17;/h1-6,8-11,18-19H,7,12-15,22H2;1H/t18-,19-;/m0./s1
